US08623889B2
Step 3: 1-(5-bromo-4-methylpyridin-2-yl)-2,2,2-trifluoroethanamine
To a solution of 1-(5-bromo-4-methylpyridin-2-yl)-2,2,2-trifluoro-N-(4-methoxybenzylidene)ethanamine (77 mg; 0.1989 mmol) in dioxane (1.0 mL; 12 mmol) was added a 1 mol/L solution of hydrochloric acid in water (1.0 mL; 1.0 mmol). The reaction mixture was stirred at room temperature for 2 hours and then heated at 60° C. for 4 hours. The reaction mixture was partitioned between ethyl acetate and water. The layers were separated, and the aqueous layer adjusted to pH 7 with saturated aqueous sodium bicarbonate. The aqueous layer was extracted twice with dichloromethane. The combined dichloromethane extracts were dried over magnesium sulfate, filtered, and concentrated to yield 33.3 mg (62%) of the title compound, which was carried forward without purification. LCMS (ESI): M+H=269.2; 1H NMR (400 MHz, DMSO) δ 8.67 (s, 1H), 7.59 (s, 1H), 4.54 (dd, J=15.9, 7.9 Hz, 1H), 2.55 (d, J=7.8 Hz, 2H), 2.39 (s, 3H).

reactant | 1-(5-bromo-4-methylpyridin-2-yl)-2,2,2-trifluoro-N-(4-methoxybenzylidene)ethanamine | 0.1989 mmol, 77 mg | BrC=1C(=CC(=NC1)C(C(F)(F)F)N=CC1=CC=C(C=C1)OC)C | C16H14BrF3N2O
reactant | dioxane | 12 mmol, 1.0 mL | O1CCOCC1 | C4H8O2
reactant | hydrochloric acid | Cl | ClH
reactant | water | 1.0 mmol, 1.0 mL | O | H2O
product | 1-(5-bromo-4-methylpyridin-2-yl)-2,2,2-trifluoroethanamine | 33.3 mg, 62% | BrC=1C(=CC(=NC1)C(C(F)(F)F)N)C | C8H8BrF3N2
